US07700633B2
To a stirring solution of 2-hydroxy-2-methylpent-4-enoic acid methyl ester (1.12 g, 7.77 mmol) in THF (8 mL) at 0° C. is added MeMgBr (10 mL, 30 mmol) drop wise. The mixture is stirred for 3 h at room temperature and then quenched with sat. NH4Cl. It is then extracted with Et2O (3×50 mL). The organic layers are washed with water and brine, dried and concentrated to afford 2,3-dimethylhex-5-ene-2,3-diol.

reactant | 2-hydroxy-2-methylpent-4-enoic acid methyl ester | 7.77 mmol, 1.12 g | COC(C(CC=C)(C)O)=O | C7H12O3
reactant | MeMgBr | 30 mmol, 10 mL | C[Mg+].[Br-]
reactant | THF | 8 mL | C1CCOC1 | C4H8O
product | 2,3-dimethylhex-5-ene-2,3-diol | CC(C)(C(CC=C)(O)C)O | C8H16O2
